US07700637B2
Orsellinic acid (1.65 g, 8.86 mmol) is dissolved in 8.4 mL of 1 N aqueous NaOH with slight warming. The solution is then concentrated to dryness under vacuum to give orsellinic acid sodium salt as a dry powder.

reactant | Orsellinic acid | 8.86 mmol, 1.65 g | C(C=1C(O)=CC(O)=CC1C)(=O)O | C8H8O4
reactant | NaOH | 1 N, 8.4 mL | [OH-].[Na+]
product | orsellinic acid sodium salt | [Na+].C(C=1C(O)=CC(O)=CC1C)(=O)[O-] | InChI=1S/C8H8O4.Na/c1-4-2-5(9)3-6(10)7(4)8(11)12;/h2-3,9-10H,1H3,(H,11,12);/q;+1/p-1
